US05374623
Synthesis of morpholine carbonyl 2-aminoisobutyric acid.
Conversion to the acid. Morpholine carbonyl-2-aminoisobutyric methyl ester (5.65 mmol) is dissolved in 60 ml of methanol containing 6 ml (1 N) sodium hydroxide and is stirred under argon overnight. The reaction is then concentrated, diluted with ethyl acetate and extracted with water (50 ml) containing 7 ml 1 N sodium hydroxide. The water is neutralized and extracted with ethyl acetate, and is then dried (Na2SO4) and concentrated to give a white solid, m.p. 162°-166° C.

reactant | Morpholine carbonyl-2-aminoisobutyric methyl ester | 5.65 mmol | COC(C(CC(=O)N1CCOCC1)(C)N)=O | C10H18N2O4
solvent | methanol | 1 N, 60 ml | CO | CH4O
product | morpholine carbonyl 2-aminoisobutyric acid | N1(CCOCC1)C(=O)CC(C(=O)O)(C)N | C9H16N2O4
